US07700633B2
To a solution of chlorosulfonyl isocyanate (0.15 mL, 1.75 mmol) in 4 mL of CH2Cl2, cooled in a ice bath, is added t-butanol (0.17 mL, 1.75 mmol). The mixture is warmed to ambient temperature and stirred for 15 min. The solution is cooled in an ice bath and a solution of (7-benzyloxy-3-methoxy-2-oxo-2H-chromen-6-ylamino)-acetic acid methyl ester (0.430 g, 1.17 mmol) and triethylamine (0.35 mL, 2 mmol) is added dropwise. After addition is complete, the mixture is warmed to ambient temperature and stirred for 1.5 h. To this is added water (1 mL) and the mixture is extracted with EtOAc. The organic layer is washed with water, sat. NaCl and dried over sodium sulfate. The solvent is removed under reduced pressure to afford N-(t-butoxycarbonylsulfamoyl)-N-(7-benzyloxy-3-methoxy-2-oxo-2H-chromen-6-yl)glycine methyl ester as a white solid: 1H NMR (CDCl3) δ 7.78 (s, 1H), 7.71 (s, 1H), 7.38-7.30 (m, 5H), 6.82, (s, 1H), 6.78 (s, 1H), 5.18 (s, 2H), 4.55 (s, 2H), 3.83 (s, 3H); 3.66 (s, 3H), 1.41 (s, 9H); (M+H)+=549.

reactant | chlorosulfonyl isocyanate | 1.75 mmol, 0.15 mL | ClS(=O)(=O)N=C=O | CClNO3S
reactant | t-butanol | 1.75 mmol, 0.17 mL | C(C)(C)(C)O | C4H10O
reactant | (7-benzyloxy-3-methoxy-2-oxo-2H-chromen-6-ylamino)-acetic acid methyl ester | 1.17 mmol, 0.430 g | COC(CNC=1C=C2C=C(C(OC2=CC1OCC1=CC=CC=C1)=O)OC)=O | C20H19NO6
reactant | triethylamine | 2 mmol, 0.35 mL | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 4 mL | C(Cl)Cl | CH2Cl2
solvent | water | 1 mL | O | H2O
product | N-(t-butoxycarbonylsulfamoyl)-N-(7-benzyloxy-3-methoxy-2-oxo-2H-chromen-6-yl)glycine methyl ester | COC(CN(C=1C=C2C=C(C(OC2=CC1OCC1=CC=CC=C1)=O)OC)S(NC(=O)OC(C)(C)C)(=O)=O)=O | C25H28N2O10S
